US07829570B2
N-{4-[7-Amino-3-(4-piperidyl)-1H-pyrazolo[4,3-d]pyrimidin-1-yl]-2-methoxyphenyl}-N-phenylurea
The title compound was prepared from tert-Butyl 4-[7-amino-1-(4-amino-3-methoxyphenyl)-1H-pyrazolo[4,3-d]pyrimidin-3-yl]-1-piperidinecarboxylate and phenyl isocyanate in the manner described for the preparation of N2-{4-[7-amino-3-(4-piperidyl)-1H-pyrazolo[4,3-d]pyrimidin-1-yl]-2-methoxyphenyl}-1-methyl-1H-2-indolecarboxamide: 1H NMR (DMSO-d6, 400 MHz) δ 9.40 (s, 1H), 8.44 (s, 1H), 8.33 (d, 1H), 8.23 (s, 1H), 7.47 (d, 2H), 7.31 (m, 2H), 7.19 (s, 1H), 7.06 (m, 1H), 7.00 (m, 1H), 6.5 (bs, 2H), 3.95 (s, 3H), 3-3.2 (m, 3H), 2.71 (m, 2H), 1.9-2.0 (m, 4H); RP-HPLC (Hypersil HS C18, 5 μm, 100 A, 250×4.6 mm; 5%-100% acetonitrile-0.05 M ammonium acetate over 25 min, 1 mL/min) tr 13.02 min; MS: MH+ 459.1, M−H+ 457.2

reactant | tert-Butyl 4-[7-amino-1-(4-amino-3-methoxyphenyl)-1H-pyrazolo[4,3-d]pyrimidin-3-yl]-1-piperidinecarboxylate | NC=1C2=C(N=CN1)C(=NN2C2=CC(=C(C=C2)N)OC)C2CCN(CC2)C(=O)OC(C)(C)C | C22H29N7O3
reactant | phenyl isocyanate | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | N2-{4-[7-amino-3-(4-piperidyl)-1H-pyrazolo[4,3-d]pyrimidin-1-yl]-2-methoxyphenyl}-1-methyl-1H-2-indolecarboxamide | NC=1C2=C(N=CN1)C(=NN2C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)C2CCNCC2 | C27H28N8O2
reactant | Hypersil | CO[C@H]1[C@@H](C[C@@H]2CN3CCC4=C([C@H]3C[C@@H]2[C@@H]1C(=O)OC)NC5=C4C=CC(=C5)OC)OC(=O)C6=CC(=C(C(=C6)OC)OC)OC | C33H40N2O9
solvent | acetonitrile | 0.05 M | C(C)#N | C2H3N
product | N-{4-[7-Amino-3-(4-piperidyl)-1H-pyrazolo[4,3-d]pyrimidin-1-yl]-2-methoxyphenyl}-N-phenylurea | NC=1C2=C(N=CN1)C(=NN2C2=CC(=C(C=C2)N(C(=O)N)C2=CC=CC=C2)OC)C2CCNCC2 | C24H26N8O2
